### PR TITLE
Add the remaining theorems for `Option`

### PR DESCRIPTION
**Pull request by iamrecursion**
This commit adds statements and proofs of the remaining theorems to accompany the functionality of the `std::option::Option<T>` type. It also introduces a document that aims to collate useful tips for stating theorems and proving.

Do note that it does not contain proofs for some of the traits implemented for `Option` as these will be influenced by the "lawful" trait initiative, and hence are not worth doing at this stage.

It also adds the `unsafe` mode to both the `steps` and `sl` tactics. This allows `sl` (and uses thereof embedded in `steps`) to unify from the entire proof state instead of the state of the current goal.

This is work toward #50.

### CODE REVIEW

File: Lampe/Lampe/Tactic/SL.lean [hunk 1]
```diff
@@ -226,18 +239,27 @@ For example, if the original goal is `P x ⋆ P y ⊢ (∃∃z, P z) ⋆ P x`, a
...
+      withNewMCtxDepth $ isDefEq expr rhs
+    if shouldProcessFinalGoal then
       let impl ← goal.apply' (←mkConstWithFreshMVarLevels ``Internal.entails_self_true)
       pure $ SLGoals.mk [] [] impl
     else throwError "final unrecognized is not equal"
   | SLTerm.star _ l r => do
     match l with
-    | SLTerm.unrecognized expr =>
-      if (←withNewMCtxDepth $ isDefEq expr rhs) then
+    | SLTerm.unrecognized expr => do
```
Comment (kustosz) [inline Lampe/Lampe/Tactic/SL.lean:257]: you could write this as:
```
let mvar_guard <- if isUnsafe then id else withNewMCtxDepth
mvar_guard $ isDefEq expr this
```
Also `shouldProcessGoal` is a bad name for this variable. More like `shouldUnifyInGoal`?

File: Lampe/Lampe/Tactic/SL.lean [hunk 2]
```diff
@@ -471,10 +493,23 @@ partial def solveEntailment (goal : MVarId): TacticM SLGoals :=
...
-elab "sl" : tactic => do
+/--
+Solves separation logic entailments of the form `P ⊢ Q ⋆ ⊤` or `P ⊢ Q ⋆ ?M`.
+
+It pushes all clonable information into the metavariable `?M` in order to strengthen it for usage in
+discharging further goals.
+
+It can be called in two ways:
+
+- `sl`: Simply solves the appropriate SL entailments, only unifying within the current goal context.
```
Comment (kustosz) [inline Lampe/Lampe/Tactic/SL.lean:504]: This sentence makes no sense to me at all. Also this is more user facing, so to make it future-proof, I'd just say: `sl` is a safe tactic – it will make whatever progress it can while assuring it doesn't turn a solvable goal into an unsolvable one. `sl unsafe` is more aggressive, so it may close some more goals, but it may also get you stuck.

File: Lampe/Lampe/Tactic/Steps.lean [hunk 3]
```diff
@@ -383,7 +383,7 @@ partial def step (mvar : MVarId) (addLemmas : List AddLemma) : TacticM TripleGoa
     let (_, hNext) ← hNext.intro (vname.getD `v)
     let hHead :: hEnt :: impls₂ ← hHead.apply (←mkConstWithFreshMVarLevels ``consequence_frame_left) | throwError "bad application"
     let impls₃ ← closer hHead
-    let rEnt ← solveEntailment hEnt
+    let rEnt ← SLMonad.run (solveEntailment hEnt) SLConfig.default
```
Comment (kustosz) [inline Lampe/Lampe/Tactic/Steps.lean:386]: I think you should give it a `.run`-free entry point, `SLM` shouldn't leak outside of that file.

File: Lampe/Lampe/Tactic/Steps.lean [hunk 4]
```diff
@@ -516,14 +520,17 @@ It can be called in three main ways:
 - `steps`: A bare call to the tactic will simply try to advance the goal by performing as many steps
   as it can without blowing up the proof state or failing. This version can take a maximum of 10000
   steps before failing.
+- `steps unsafe`: As above, except that separation logic goals will be able to unify outside of the
```
Comment (kustosz) [inline Lampe/Lampe/Tactic/Steps.lean:523]: Again, I don't even know what "unifying outside of the current goal's context" means.

File: stdlib/lampe/Stdlib/Option.lean [hunk 5]
```diff
@@ -30,91 +30,465 @@ export «std-1.0.0-beta.11».Extracted (
...
+@[simp]
+lemma option_snd_eq_toOption_get_of_isSome {p T}
+    {v : Tp.denote p $ «std::option::Option».tp h![T]}
+    (v_is_some : (toOption v).isSome = true)
+  : Builtin.indexTpl v Builtin.Member.head.tail = (toOption v).get v_is_some := by
+  rcases v with ⟨_|_, _, _⟩ 
+  . contradiction
+  . rfl
+
+lemma f_of_get_some_eq_map_f_of_some_getD {α β} {f : α → β} {d : β} {o : Option α}
```
Comment (kustosz) [inline stdlib/lampe/Stdlib/Option.lean:75]: I would reverse the direction of this and call it `Option.getD_map_of_isSome`

File: stdlib/lampe/Stdlib/Option.lean [hunk 6]
```diff
@@ -30,91 +30,465 @@ export «std-1.0.0-beta.11».Extracted (
...
+  . rfl
+
+lemma f_of_get_some_eq_map_f_of_some_getD {α β} {f : α → β} {d : β} {o : Option α} 
+    (h : o.isSome)
+  : f (o.get h) = (o.map f).getD d := by
+  rcases (Option.isSome_iff_exists.mp h) with ⟨_, rfl⟩
+  rfl
+
+@[simp]
+lemma f_of_bind_some_eq_f {α β} {v : Option α} {d : Option β} (v_is_some : v.isSome = true)
```
Comment (kustosz) [inline stdlib/lampe/Stdlib/Option.lean:82]: This is a weird one, too much happening. I'd call this `Option.bind_def_of_isSome` and make it say `(v >>= f) = f (v.get h)`. This is definitionally equal in the case of a constant function, but much less clunky.

File: stdlib/lampe/Stdlib/Option.lean [hunk 7]
```diff
@@ -30,91 +30,465 @@ export «std-1.0.0-beta.11».Extracted (
...
+    subst_vars
+    rw [f_of_get_some_eq_map_f_of_some_getD (f := func_emb) h]
+  . have h : (toOption v).isNone := by 
+      simp_all
+    steps [map_or_else_none_spec (E1 := E1) (E2 := E2) h default_f]
+    subst_vars
     simp_all
+
+theorem and_spec {p T v w P}
+  : STHoare p env P
```
Comment (kustosz) [inline stdlib/lampe/Stdlib/Option.lean:271]: The `P` here is frame-able, so this should just say `STHoare p env [[]] ... (fun r => r = ...)`

File: stdlib/lampe/Stdlib/Option.lean [hunk 8]
```diff
@@ -30,91 +30,465 @@ export «std-1.0.0-beta.11».Extracted (
...
+    (fun r => r = ((toOption self).map f_emb).getD (fromOption none) ⋆ P) := by
+  by_cases h : (toOption self).isSome = true
+  . steps [and_then_some_spec (E := E) h (f_f _)]
+    subst_vars
+    apply f_of_get_some_eq_map_f_of_some_getD h
+  . have h : (toOption self).isNone := by simp_all
+    steps [and_then_none_spec (E := E) h]
+    simp_all
+
+theorem or_spec {p T P self default}
```
Comment (kustosz) [inline stdlib/lampe/Stdlib/Option.lean:328]: Another pointless `P`

File: stdlib/lampe/Stdlib/Option.lean [hunk 9]
```diff
@@ -30,91 +30,465 @@ export «std-1.0.0-beta.11».Extracted (
...
+  by_cases h : (toOption self).isSome = true
+  . steps [or_else_some_spec h]
+    subst_vars
+    simp_all
+  . have h : (toOption self).isNone := by simp_all
+    steps [or_else_none_spec (E := E) h default_f]
+    subst_vars
+    simp_all
+
+theorem xor_spec {p T P self other}
```
Comment (kustosz) [inline stdlib/lampe/Stdlib/Option.lean:390]: Pointless `P`.

Also jeeez what is this function even lol.

**Review by kustosz — APPROVED** [review]
All in all good stuff, some nitpicks inline
